US07608716B2
To 3-ethoxycarbonyl-1-(3-fluorophenyl)-4-hydroxy-1,8-naphthyridin-2 (1H)-one (328 mg, 11.0 mmol) was added an aqueous solution (7 ml) of potassium hydroxide (560 mg, 10.0 mmol), and the mixture was heated under reflux overnight, acidified to pH1 with conc. hydrochloric acid, refluxed for 1 hour, filtered off to give precipitates which were washed with water and dried to afford 1-(3-fluorophenyl)-4-hydroxy-1,8-naphthyridin-2 (1H)-one (194.5 mg, 76%) as crystals.

reactant | 3-ethoxycarbonyl-1-(3-fluorophenyl)-4-hydroxy-1,8-naphthyridin-2 (1H)-one | 11.0 mmol, 328 mg | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1O)C1=CC(=CC=C1)F)=O | C17H13FN2O4
reactant | potassium hydroxide | 10.0 mmol, 7 ml, 560 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(3-fluorophenyl)-4-hydroxy-1,8-naphthyridin-2 (1H)-one | 194.5 mg, 76% | FC=1C=C(C=CC1)N1C(C=C(C2=CC=CN=C12)O)=O | C14H9FN2O2
